reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[O:3]=[C:4]([O:5][H:7])[C:6]([H:12])([H:13])[H:14]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],34.5575480803885
[C:1](/[C:2](=[N:3]\[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],70.40683978115571
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C@:5]1([O:6][H:7])[H:12],50.66525570784229
[C:1]([C:2]([O:5][C:4](=[C:3]([H:13])[H:14])[C:6](=[O:7])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],72.4228248601026
[C:1]1([H:8])([H:10])[C@@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C@@:5]1([O:6][H:9])[N:7]([H:15])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],49.98735980305219
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4](=[C:5]=[N:6][H:10])[H:9])[H:8])\[H:7],94.2467219754345
[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5]>>[C+:2](=[C:3]=[C-:4][H:8])[H:6].[O:1]([H:5])[H:7],75.0499117056729
[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:8])([H:6])[H:7]>>[N:1](=[C:2](/[O:3][C:4](=[O:5])[H:8])[H:7])\[H:6],46.73661511701641
[C:3]([H:8])[H:9].[O:1]([C:2]([O:4][H:10])([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],30.750100765729016
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3](=[N+:4]([H:11])[H:12])[C:5](=[O:6])[N-:7][H:14])([H:8])[H:10].[H:9][H:13],77.5294881529441
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:17].[C:4]([C:5]([H:13])([H:14])[H:15])(=[C:6]([H:16])[H:18])[H:12].[O:2]=[C:3]([H:10])[H:11],97.5552832556686
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:4][H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:12],122.958302510652
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[O:7][H:21])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:20]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],80.4818226204054
[C:1]([C:2](/[N:3]=[C:4]1\[O:5][C:6]1([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],37.33898453133271
[C:1]([C:2]([C:3]([N:4]=[C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],69.5748972443342
[C:1]([C:2]([C-:3]=[O+:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],23.02090767308968
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O-:1][C:2](=[C+:3][N:5]([C:4]([H:7])([H:8])[H:9])[H:10])[H:6],75.38987287189309
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:7](=[C:6])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],15.723025889007104
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:12])[H:14])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][H:15]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],78.69422194252422
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2]([H:8])[H:9].[O:1]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])[H:7],119.795227941898
[C:4](=[O:5])([N+:7]#[C-:6])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],47.46937351857545
[C:1]([O+:2]=[C-:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])([H:10])[H:12]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],18.37822967737081
[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],75.279366278737
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]12[N:3]([O:4][H:10])[C@@:6]1([H:11])[C:5]2)([H:7])([H:8])[H:9],62.4986220693019
[N:1](=[C:2]1/[C:3][C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],0.5454242459755818
